US08877744B2
A solution of (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (intermediate B6.1) (200 mg, 546 μmol) in dioxane (2 ml) was treated consecutively with trans-N,N′-dimethyl-1,2-cyclohexanediamine (16.0 mg, 109 μmol), copper(I)iodide (10.6 mg, 54.6 μmol), and sodium iodide (165 mg, 1.09 mmol). The reaction mixture was stirred at 110° C. for 15 hours. Following TLC the reaction was incomplete. Another amount of copper(I)iodide (10.6 mg, 54.6 μmol), trans-N,N′-dimethyl-1,2-cyclohexanediamine (16.0 mg, 109 μmol), and sodium iodide (165 mg, 1.09 mmol) was added. Stirring was continued at 110° C. during the weekend. For the workup, the reaction mixture was evaporated at reduced pressure and the residue was purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 90:60 as the eluent. The (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one (217 mg, 96% yield) was obtained as light yellow viscous oil. MS (ISP): m/z=414.1 [M+H]+.

reactant | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 546 μmol, 200 mg | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C14H15BrF3NO2
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 109 μmol, 16.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium iodide | 1.09 mmol, 165 mg | [I-].[Na+]
reactant | trans-N,N′-dimethyl-1,2-cyclohexanediamine | 109 μmol, 16.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | sodium iodide | 1.09 mmol, 165 mg | [I-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I)iodide | 54.6 μmol, 10.6 mg | [Cu]I
catalyst | copper(I)iodide | 54.6 μmol, 10.6 mg | [Cu]I
product | (R)-6,6-difluoro-5-(2-fluoro-5-iodo-phenyl)-5,7,7-trimethyl-[1,4]oxazepan-3-one | 217 mg, 96% yield | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)I)F)F | C14H15F3INO2
